US07557213B2
Preparation of 3-(5,6-Dimethyl-pyridine-3-carbonyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 60 mg (0.22 mmol) of 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one, 10 mg (0.26 mmol) of 60% sodium hydride, 62 mg (0.26 mmol) of 2-bromomethyl-6-trifluoromethyl-pyridine and 0.7 mL of N,N-dimethylformamide. Yield: 29 mg of a white solid: LC-MSD, m/z for C24H18F3N3O2 [M+H]+=438.1; HPLC retention time: 1.4 min.

reactant | 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.22 mmol, 60 mg | CC=1C=C(C=NC1C)C(=O)C1=CNC2=CC=CC=C2C1=O | C17H14N2O2
reactant | sodium hydride | 0.26 mmol, 10 mg | [H-].[Na+]
reactant | 2-bromomethyl-6-trifluoromethyl-pyridine | 0.26 mmol, 62 mg | BrCC1=NC(=CC=C1)C(F)(F)F | C7H5BrF3N
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 3-(5,6-Dimethyl-pyridine-3-carbonyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C=NC1C)C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C(F)(F)F | C24H18F3N3O2
